US08058300B2
Step 3: 5-[4′-(1-Ethoxycarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazole-4-carboxylic acid:
Prepared according to the procedure described in Example 1, Step 6 using 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C11H8BrNO3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 5-[4′-(1-Ethoxycarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazole-4-carboxylic acid | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C23H21NO5
